US05321096
Successively, to a reduction vessel equipped with a thermometer, reflux condenser and stirrer, 115 g (0.184 mol) of 1,3-bis[4-(4-nitro-6-fluorophenoxy)-α, α-dimethylbenzyl]benzene, 250 g of isopropyl alcohol and 4.8 g of 5%-Pd/c having a moisture content of 50% were charged and reacted at 70°~80° C. for 4 hours in a hydrogen atmosphere. After finishing the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure to obtain 84.2 g (81% yield) of 1,3-bis[4-(4-amino-6-fluorophenoxy)-α, α-dimethylbenzyl]benzene as a light yellow crystal having a melting point of 130.4~132.9.

reactant | 1,3-bis[4-(4-nitro-6-fluorophenoxy)-α, α-dimethylbenzyl]benzene | 0.184 mol, 115 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C(C)(C)C3=CC(=CC=C3)C(C3=CC=C(C=C3)OC3=CC=C(C=C3F)[N+](=O)[O-])(C)C)C=C2)C(=C1)F | C36H30F2N2O6
reactant | hydrogen | [H][H] | H2
catalyst | Pd | [Pd] | Pd
solvent | isopropyl alcohol | 250 g | C(C)(C)O | C3H8O
product | 1,3-bis[4-(4-amino-6-fluorophenoxy)-α, α-dimethylbenzyl]benzene | 84.2 g, 81% yield | NC1=CC=C(OC2=CC=C(C(C)(C)C3=CC(=CC=C3)C(C3=CC=C(C=C3)OC3=CC=C(C=C3F)N)(C)C)C=C2)C(=C1)F | C36H34F2N2O2
